US04157444
A 1.31 g. portion of 4-ethoxy-3-thiophenecarbonyl chloride is dissolved in 10 ml. of dry methylene chloride and then added dropwise to a solution of 0.75 g. of O-aminophenol in 10 ml. of dry methylene chloride with stirring. A 1.0 ml. portion of triethylamine is added and the mixture is then stirred overnight. This mixture is poured into water, stirred for 30 minutes and extracted three times with methylene chloride. The extracts are filtered through diatomaceous earth and then diluted with petroleum ether giving a white solid. This solid is recrystallized from a mixture of 250 ml. of methylene chloride and 250 ml. of petroleum ether giving 4-ethoxy-2'-hydroxy-3-thiophenecarboxanilide as white crystals.

reactant | 4-ethoxy-3-thiophenecarbonyl chloride | C(C)OC=1C(=CSC1)C(=O)Cl | C7H7ClO2S
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | O-aminophenol | NOC1=CC=CC=C1 | C6H7NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 4-ethoxy-2'-hydroxy-3-thiophenecarboxanilide | C(C)OC=1C(=CSC1)C(=O)NC1=C(C=CC=C1)O | C13H13NO3S
